US07622583B2
To a solution of N-(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (590 mg, 1.2 mmol) in THF (2 mL) was added isopropylmagnesium chloride (1.3 mL, 2.6 mmol) slowly at 0° C. One hour later, N-methoxy-N-methyl-2-morpholin-4-yl-isonicotinamide (300 mg, 1.2 mmol) was added and warmed up to RT while stirring overnight, quenched with water, extracted with ethyl acetate, concentrated and purified by flash column to give 4-chloro-N-[5-chloro-2-(2-morpholin-4-yl-pyridine-4-carbonyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide.

reactant | N-(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 1.2 mmol, 590 mg | BrC1=NC=C(C=C1N(S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)COC)Cl | C14H10BrCl2F3N2O3S
reactant | isopropylmagnesium chloride | 2.6 mmol, 1.3 mL | C(C)(C)[Mg]Cl
reactant | N-methoxy-N-methyl-2-morpholin-4-yl-isonicotinamide | 1.2 mmol, 300 mg | CON(C(C1=CC(=NC=C1)N1CCOCC1)=O)C | C12H17N3O3
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-chloro-N-[5-chloro-2-(2-morpholin-4-yl-pyridine-4-carbonyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C(=O)C1=CC(=NC=C1)N1CCOCC1)C(F)(F)F | C24H21Cl2F3N4O5S
